US06265473B1
Preparation of N,N′-bis(1-methoxy-2,2,6,6-tetramethyl-4-piperidyl)-1,6-hexanediamine
The product is prepared as described in Example II-1, by reaction of 185.3 g (1 mole) of 1-methoxy-2,2,6,6-tetramethyl-4-oxopiperidine and 60.4 g (0.52 moles) of 1,6-hexanediamine.

reactant | 1-methoxy-2,2,6,6-tetramethyl-4-oxopiperidine | 1 mole, 185.3 g | CON1C(CC(CC1(C)C)=O)(C)C | C10H19NO2
reactant | 1,6-hexanediamine | 0.52 moles, 60.4 g | C(CCCCCN)N | C6H16N2
product | N,N′-bis(1-methoxy-2,2,6,6-tetramethyl-4-piperidyl)-1,6-hexanediamine | CON1C(CC(CC1(C)C)NCCCCCCNC1CC(N(C(C1)(C)C)OC)(C)C)(C)C | C26H54N4O2
